US08466289B2
Synthesis of the Title Compound; 1-Hydroxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-8-yl]-amide (22A)
Using the same reaction conditions and workup as described for the preparation of Example 21A, 1-benzyloxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-8-yl]-amide (0.2 g, 0.321 mmol) was reacted with BF3OEt2(0.79 mL, 6.24 mmol) and ethane thiol (0.2 mL, 3.21 mmol). The resulting mixture was stirred at 40° C. for 6 hours. Purification by column chromatography on silica gel (2% MeOH in CHCl3) afforded 100 mg of the product (55% yield).

reactant | 1-benzyloxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-8-yl]-amide | 0.321 mmol, 0.2 g | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCS2)NS(=O)(=O)C2(CC2)COCC2=CC=CC=C2 | C25H25FIN3O4S2
reactant | ethane thiol | 3.21 mmol, 0.2 mL | C(C)S | C2H6S
product | 1-Hydroxymethyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-8-yl]-amide | 100 mg, 55% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCS2)NS(=O)(=O)C2(CC2)CO | C18H19FIN3O4S2
